US07919468B2
N-Boc-Tyr(Bn)-Ala-OH:
Same procedure as above with N-Boc-Tyr(Bn)-Ala-OMe (1.55 g, 3.39 mmol), aqueous LiOH (1 M, 4 mL, 4 mmol) in THF (4 mL). A white solid was obtained (1.25 g, 83%) which was used in the next step without further purification. 1H NMR (200 MHz, CDCl3) δ 1.41 (s large, 12H, CH3, (CH3)3), 3.01 (m, 2H, CH2), 4.38 (m, 1H, CHα), 4.53 (m, 1H, CHα), 5.04 (s, 2H, CH2 (Bn)), 5.16 (broad s, 1H, NHBoc), 6.68 (m, 1H, NH amide), 6.91 (d, J=8.6 Hz, 2 aromatic H), 7.12 (d, J=8.6 Hz, 2 aromatic H), 7.33-7.44 (m, 5 aromatic H). 13C NMR (75 MHz, CDCl3) δ 18 (CH3), 28.2 ((CH3)3), 37.5 (CH2 Tyr), 48.2 (CHα Ala), 55.6 (CHα Tyr), 70 (CH2 (Bn)), 80.5 (C(CH3)3), 115, 127.4, 128, 128.5, 128.6, 130.4, 137 (11 aromatic C), 155.8, 157.8 (Car-O, CO carbamate), 171.6, 175.5 (CO acid, CO amide).

reactant | N-Boc-Tyr(Bn)-Ala-OMe | 3.39 mmol, 1.55 g | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)OC)C(=O)OC(C)(C)C | C25H32N2O6
reactant | LiOH | 4 mmol, 1 M, 4 mL | [Li+].[OH-]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
product | N-Boc-Tyr(Bn)-Ala-OH | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C24H30N2O6
